US04072705
Preparation of Ethyl 2-[4-(para-chlorobenzoyl)-phenoxy]-propionate
0.75 mole (175 g) of 4'-chloro-4-hydroxy-benzophenone, 1.5 l of methylisobutyl ketone, 0.975 mole (134 g) of K2CO3 and 0.8 mole (145 g) of ethyl 2-bromopropionate are placed in a 2-liter flask. The mixture is heated at reflux for 8 hours with vigorous agitation whereupon the reaction mixture is cooled and filtered on a Buchner funnel. The solvent is then evaporated under vacuum and the residue distilled; the desired ester is recovered at 198° to 201° C under 0.1 mm of mercury. Yield 190 g (76%).

reactant | 4'-chloro-4-hydroxy-benzophenone | 0.75 mole, 175 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)=O | C13H9ClO2
reactant | K2CO3 | 0.975 mole, 134 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromopropionate | 0.8 mole, 145 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | methylisobutyl ketone | 1.5 l | CC(=O)CC(C)C | C6H12O
product | Ethyl 2-[4-(para-chlorobenzoyl)-phenoxy]-propionate | ClC1=CC=C(C(=O)C2=CC=C(OC(C(=O)OCC)C)C=C2)C=C1 | C18H17ClO4
